US04288434
A mixture of 12.9 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid, 9.12 g of neutral potassium carbonate, 60 ml of dry dimethylformamide and 7.6 ml of chloroacetonitrile was stirred under an inert atmosphere and after formation of a mass, the mixture stood for 65 hours under a closed atmosphere. The product was poured into a mixture of 750 ml of water, 130 ml of N hydrochloric acid and 150 ml of ethyl acetate and the mixture was stirred and vacuum filtered. The filter was rinsed with ethyl acetate and with water and the filtrate was decanted. The organic phase was washed with 100 ml of water and the aqueous phase was extracted 3 times with 100 ml of ethyl acetate. The combined organic phases were dried and were vacuum filtered. The filter was rinsed and the filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with ether yielded 8.69 g of the syn isomer of cyanomethyl 2-(2-tritylamino- 4-thiazolyl)-2-cyanomethyloxyimino-acetate in the form of an oil.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NO | C24H19N3O3S
reactant | potassium carbonate | 9.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 7.6 ml | ClCC#N | C2H2ClN
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 750 ml | O | H2O
product | cyanomethyl 2-(2-tritylamino- 4-thiazolyl)-2-cyanomethyloxyimino-acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC#N)=NOCC#N | C28H21N5O3S
